US05338726
To a solution of N-methylpiperazine (1.48 mL, 13.3 mmol) in dioxane (6.7 mL) cooled to 0° C. was added 4N hydrochloric acid in dioxane (10 mL). The reaction was very exothermic, and the mixture was stirred until the reaction cooled to room temperature. The solvent was removed under reduced pressure and chased with ether (2×). The solid obtained was taken up in acetonitrile (7 mL) and sulfuryl chloride (3.53 mL, 3.3 equiv) was added. The mixture was warmed at relux for 24 hours and the product removed by filtration and washed with 1:1 acetonitrile/ether (100 mL). This crude material was recrystallized from hot methanol and acetonitrile to afford 4-methylpiperazin-1-ylsulfonyl chloride (1.36 g, 44%) as a white crystalline solid.

reactant | N-methylpiperazine | 13.3 mmol, 1.48 mL | CN1CCNCC1 | C5H12N2
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | sulfuryl chloride | 3.53 mL, 3.3 equiv | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dioxane | 6.7 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | 4-methylpiperazin-1-ylsulfonyl chloride | 1.36 g, 44% | CN1CCN(CC1)S(=O)(=O)Cl | C5H11ClN2O2S
